US07071201B2
A 1 M solution (0.18 ml) of a borane/tetrahydrofuran complex was added dropwise at 0° C. into a solution of 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-methoxyindole (24 mg) in trifluoroacetic acid (1 ml) over 2 min followed by stirring at 0° C. for 30 min. Af ter the completion of the reaction, water (0.1 ml) was added thereto and the resulting reaction solution was concentrated under reduced pressure. The resulting residue was dissolved in a 2 N aqueous solution of sodium hydroxide and stirred at room temperature for 10 min. The mixture was extracted with methylene chloride. The organic layer was separated and dried over magnesium sulfate. After concentrating the solvent under reduced pressure, the resulting residue was purified by preparative TLC to give 1-[1-(4-fluorophenethyl)piperidin-4-yl)]-6-methoxyindoline (10 mg) (yield: 35%).

reactant | 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-methoxyindole | 24 mg | FC1=CC=C(CCN2CCC(CC2)N2C=CC3=CC=C(C=C23)OC)C=C1 | C22H25FN2O
reactant | water | 0.1 ml | O | H2O
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 6-methoxyindoline | 10 mg, yield: 35% | COC1=CC=C2CCNC2=C1 | C9H11NO
